US06288066B1
1-{5-[2(S)-Hydroxy-2-(2,2,4,4-tetraisopropyl-[1,3,5,2,4]trioxadisilepan-6(R)-yl)ethyl]pyrazin-2-yl}-2-(2,2,4,4-tetraisopropyl-[1,3,5,2,4]trioxadisilepan-6(R)-yl)ethane-1(R),2(S)-diol can be obtained in the following way: 2.3 cm3 of 1,3-dichloro-1,1,3,3-tetraisopropyldisiloxane are added, with stirring, and under nitrogen, to a solution of 1 g of deoxyfructosazine in 27 cm3 of pyridine. The reaction mixture is stirred at a temperature of approximately 25 C. for 41 hours. After concentrating under reduced pressure (2.7 kPa) at a temperature in the region of 60 C., the residual oil is taken up 3 times in 30 cm3 of pentane and then reconcentrated under the same conditions. The solid residue obtained is dissolved in 50 cm3 of dichloromethane and washed successively twice with 30 cm3 of a 1N aqueous hydrochloric acid solution, twice with 30 cm3 of water and then twice with 30 cm3 of a saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate and then concentrated under reduced pressure (2.7 kPa) at a temperature of 40 C. The oil obtained is chromatographed on a silica (0.020-0.045 mm) column eluted with an ethyl acetate/cyclohexane (as a gradient from 1/4 to 1/2 by volume) mixture at a pressure of approximately 1.5★105 Pa. The fractions containing the expected product are combined and concentrated under reduced pressure (2.7 kPa) at a temperature of 40 C. 1.5 g of 1-{5-[2(S)-hydroxy-2-(2,2,4,4-tetraisopropyl-[1,3,5,2,4]trioxadisilepan-6(R)-yl)ethyl]pyrazin-2-yl}-2-(2,2,4,4-tetraisopropyl-[1,3,5,2,4]trioxadisilepan-6(R)-yl)ethane-1(R),2(S)-diol are thus obtained in the form of a white foam melting at 87 C. [1H N.M.R. spectrum (250 MHz, d6-(CD3)2SO, δ in ppm): from 0.80 to 1.30 (mt, 56H, 8 CH(CH3)2), 2.78 (dd, J=14 and 9 Hz, 1H, 1H of the 5α CH2), 3.17 (dd, J=14 and 3.5 Hz, 1H, the other H of the 5α CH2), 3.53 (broad t, J=9 Hz, 1H, 2β CH), from 3.60 to 3.70 (mt, 4H, 5β CH, 5γ CH, 1H of the 2δ CH2O and 1H of the 5δ CH2O), from 4.05 to 4.30 (mt, 3H, 2γ CH, the other H of the 2δ CH2O and the other H of the 5δ CH2O), 4.82 (d, J=8 Hz, 1H, OH at 2β), from 4.90 to 5.05 (mt, 2H, 2α CH and 5β OH), 5.46 (d, J=6 Hz, 1H, 2α OH), 8.43 (s, 1H, ═CH at 6), 8.66 (s, 1H, ═CH at 3); α ⁢ 20 D = - 11.1 ⁢   ⁢ ⁢   ⁢ ⁢   ⁢ 0.5 ⁢ ( c = 0.5 , dichloromethane ) ] .

reactant | 1,3-dichloro-1,1,3,3-tetraisopropyldisiloxane | 2.3 cm3 | Cl[Si](O[Si](C(C)C)(C(C)C)Cl)(C(C)C)C(C)C | C12H28Cl2OSi2
reactant | deoxyfructosazine | 1 g | C1=C(N=CC(=N1)[C@H]([C@@H]([C@@H](CO)O)O)O)C[C@@H]([C@@H](CO)O)O | C12H20N2O7
solvent | pyridine | 27 cm3 | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | 1-{5-[2(S)-hydroxy-2-(2,2,4,4-tetraisopropyl-[1,3,5,2,4]trioxadisilepan-6(R)-yl)ethyl]pyrazin-2-yl}-2-(2,2,4,4-tetraisopropyl-[1,3,5,2,4]trioxadisilepan-6(R)-yl)ethane-1(R),2(S)-diol | 1.5 g | O[C@@H](CC=1N=CC(=NC1)[C@H]([C@H](O)[C@@H]1O[Si](O[Si](OC1)(C(C)C)C(C)C)(C(C)C)C(C)C)O)[C@@H]1O[Si](O[Si](OC1)(C(C)C)C(C)C)(C(C)C)C(C)C | C36H72N2O9Si4
